US05032312
A mixture of 0.5 g of (E)-3-(trans-4-pentylcyclohexyl)allyl alcohol, 0.3 g of 4-methoxyphenol, 0.4 g of diethyl azodicarboxylate, 0.6 g of triphenylphosphine and 25 ml of absolute tetrahydrofuran was stirred at room temperature overnight and then concentrated. The residue was suspended with 50 ml of hot hexane and filtered. The filtrate was concentrated. Chromatography of the residue on silica gel with toluene/hexane (vol. 1:1) and recrystallization from methanol gave pure 4-methoxyphenyl (E)-3-(trans-4-pentylcyclohexyl)allyl ether with m.p. (C-N) 45° C. and cl.p. (N-I) 46° C.

reactant | (E)-3-(trans-4-pentylcyclohexyl)allyl alcohol | 0.5 g | C(CCCC)[C@@H]1CC[C@H](CC1)/C=C/CO | C14H26O
reactant | 4-methoxyphenol | 0.3 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | diethyl azodicarboxylate | 0.4 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-methoxyphenyl (E)-3-(trans-4-pentylcyclohexyl)allyl ether | C(CCCC)[C@@H]1CC[C@H](CC1)/C=C/COC1=CC=C(C=C1)OC | C21H32O2
